US20010006969A1
2-Allylamino-4-(t-butylcarbamoyl)amino-7-methylthieno[ 3,2-d]pyrimidine hydrochloride
A 4N hydrochloric acid-ethyl acetate solution was added dropwise to a solution of 398 mg (1.3 mmol) of 2-allylamino-4-(t-butylcarbamoyl)amino-7-methylthieno[3,2-d] pyrimidine in ethyl acetate under ice cooling. Crystals thus precipitated were filtered out to give 400 mg (yield: 90.3%) of the title compound.

reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
reactant | 2-allylamino-4-(t-butylcarbamoyl)amino-7-methylthieno[3,2-d] pyrimidine | 1.3 mmol, 398 mg | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NC(NC(C)(C)C)=O | C15H21N5OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Allylamino-4-(t-butylcarbamoyl)amino-7-methylthieno[ 3,2-d]pyrimidine hydrochloride | 400 mg, yield: 90.3% | Cl.C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NC(NC(C)(C)C)=O | InChI=1S/C15H21N5OS.ClH/c1-6-7-16-13-17-10-9(2)8-22-11(10)12(18-13)19-14(21)20-15(3,4)5;/h6,8H,1,7H2,2-5H3,(H3,16,17,18,19,20,21);1H
